US05945502
5-Hexyl-1,4-bis(chloromethyl)-2,3-di(4-fluorophenyl)-benzene:
A 250 mL 3 neck round-bottom flask equipped with a condenser was flushed with nitrogen and then loaded with 5-hexyl-1,4-bis(hydroxymethyl)-2,3-di(4-fluorophenyl)-benzene (1.35 g, 3.3 mmol), thionyl chloride (7 g, 58.8 mmol) and methylene chloride (10 mL) was stirred at room temperature for 1 hour, and then refluxed for an additional 2 hour, and finally stirred at room temperature overnight. The solvent was then removed by rotary evaporation to give a pale yellow oil (1.1 g, 74.7% yield).

reactant | 5-hexyl-1,4-bis(hydroxymethyl)-2,3-di(4-fluorophenyl)-benzene | 3.3 mmol, 1.35 g | C(CCCCC)C=1C(=C(C(=C(C1)CO)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CO | C26H28F2O2
reactant | thionyl chloride | 58.8 mmol, 7 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Hexyl-1,4-bis(chloromethyl)-2,3-di(4-fluorophenyl)-benzene | 1.1 g, 74.7% yield | C(CCCCC)C=1C(=C(C(=C(C1)CCl)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CCl | C26H26Cl2F2
